US06921740B1
Synthesis of N,N′-bis(2-hydroxyphenyl)-4,4′-biphenyldisulfonamide
A flask with a stirrer was charged with 3.10 g of 2-aminophenol, 2.87 g of triethylamine and 50 ml of tetrahydrofuran, and a solution of 5.00 g of 4,4′-biphenyldisulfonyl chloride in 10 ml of tetrahydrofuran was dropwise added with cooling with ice over 10 minutes. After completion of the addition, the reaction mixture was stirred at room temperature for 2 hours and then poured into 500 ml of ice water. A precipitated crystal was recovered by filtration and washed with water. The obtained crystal was recrystallized from ethanol/n-hexane mixed solvents, to give 3.7 g of an end product. Decomposition point 185° C.

reactant | 2-aminophenol | 3.10 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 2.87 g | C(C)N(CC)CC | C6H15N
reactant | 4,4′-biphenyldisulfonyl chloride | 5.00 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O4S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N,N′-bis(2-hydroxyphenyl)-4,4′-biphenyldisulfonamide | 3.7 g | OC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)O | C24H20N2O6S2
